US05155113
Preparation of 4-(2-naphthoyloxy)-2-pyridone
Using 1.00 g of 4-hydroxy-2-pyridone and 2.57 g of β-naphthoyl chloride and following the general procedure of Example 18, 1.65 g of the title compound was produced in a yield of 69%.

reactant | 4-hydroxy-2-pyridone | 1.00 g | OC1=CC(NC=C1)=O | C5H5NO2
reactant | β-naphthoyl chloride | 2.57 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | 4-(2-naphthoyloxy)-2-pyridone | 1.65 g, yield of 69% | C1=C(C=CC2=CC=CC=C12)C(=O)OC1=CC(NC=C1)=O | C16H11NO3
